US06743816B2
b) 3,4-(Methylenedioxy)phenylmethanol
To a mixture of 0.99 g (26.16 mmol) of LiAlH4 and 80 mL of Et2O, 2.54 g (13.08 mmol) of ethyl 3,4-(methylenedioxy)benzoate (obtained in the preceding section) dissolved in 160 mL of Et2O was added under argon, and the mixture was stirred overnight at room temperature. A mixture of 1.62 mL of H2O and 3.41 mL of THF, followed by 1.62 mL of 15% NaOH and then 4.43 mL of H2O were added dropwise. The resulting mixture was filtered, washed with Et2O and EtOAc, and the solvent was evaporated. The residue was partitioned between H2O and EtOAc, the layers were separated, the aqueous phase was extracted with EtOAc and the combined organic phases were dried over MgSO4 and concentrated, yielding 1.88 g of the desired product (94% yield).

reactant | LiAlH4 | 26.16 mmol, 0.99 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 3,4-(methylenedioxy)benzoate | 13.08 mmol, 2.54 g | C1OC=2C=C(C(=O)OCC)C=CC2O1 | C10H10O4
reactant | NaOH | 1.62 mL | [OH-].[Na+]
solvent | Et2O | 160 mL | CCOCC | C4H10O
solvent | Et2O | 80 mL | CCOCC | C4H10O
solvent | H2O | 4.43 mL | O | H2O
solvent | THF | 3.41 mL | C1CCOC1 | C4H8O
solvent | H2O | 1.62 mL | O | H2O
product | 3,4-(Methylenedioxy)phenylmethanol | 1.88 g, 94% yield | C1OC2=C(O1)C=C(C=C2)CO | C8H8O3
